US04766133
A solution of 10.5 g of 4-tert-butyl-2,3-dimethylpyridine in 120 ml of methylene chloride is treated at room temperature with 14.4 g of m-chloroperbenzoic acid. The reaction mixture is made basic with a saturated sodium carbonate solution and extracted. The organic solution is dried and concentrated. The residue is purified on a silica qel column, whereby the medium pressure flash chromatography method (solvent: methylene chloride/ethyl acetate, with increasing ethyl acetate concentrations) is used and the pressure is produced with nitrogen gas. The 4-tert-butyl-2,3-dimethylpyridine N-oxide obtained is processed directly.

reactant | 4-tert-butyl-2,3-dimethylpyridine | 10.5 g | C(C)(C)(C)C1=C(C(=NC=C1)C)C | C11H17N
reactant | m-chloroperbenzoic acid | 14.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | 4-tert-butyl-2,3-dimethylpyridine N-oxide | C(C)(C)(C)C1=C(C(=[N+](C=C1)[O-])C)C | C11H17NO
